US05547967
78 g of thionyl chloride were added to 50 g of 3,4-dimethylbenzoic acid and the reaction mixture was heated at reflux for 3 hours. The reaction mixture was subsequently concentrated, and the residue was taken up twice in toluene and concentrated again. 53 g of 3,4-dimethylbenzoyl chloride were obtained.

reactant | thionyl chloride | 78 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dimethylbenzoic acid | 50 g | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
product | 3,4-dimethylbenzoyl chloride | 53 g | CC=1C=C(C(=O)Cl)C=CC1C | C9H9ClO
